US07192964B2
1) 1-benzyl-1-methyl-4-oxopiperidinium iodide
To 9.79 ml of 1-benzyl-4-piperidone, 16.5 ml of methyl iodide was added and stirred for 16 hours at room temperature. To the resulting yellow suspension, approx. 10 ml of ether was added and the formed yellow solid was recovered by filtration, which solid was washed with ether and dried to provide 13.42 g of the title compound as a yellow powder.

reactant | 1-benzyl-4-piperidone | 9.79 ml | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | methyl iodide | 16.5 ml | CI | CH3I
solvent | ether | approx. 10 ml | CCOCC | C4H10O
product | 1-benzyl-1-methyl-4-oxopiperidinium iodide | 13.42 g | [I-].C(C1=CC=CC=C1)[N+]1(CCC(CC1)=O)C | InChI=1S/C13H18NO.HI/c1-14(9-7-13(15)8-10-14)11-12-5-3-2-4-6-12;/h2-6H,7-11H2,1H3;1H/q+1;/p-1
